US04791374
Pentaerythrityl tetrasulfate ammonium salt is prepared from pentaerythritol and sulfamic acid in N,N,-dimethylformamide. A mixture of 5 grams of pyrrole and 5 grams of the ammonium salt in 200 ml. water is prepared and electropolymerized in a 8×7×4.5 cm reaction vessel wherein the cathode is a 15×5×0.025 cm nickel sheet. About 40 cm2 of the nickel sheet is immersed in the bath. The distance between electrodes is 4.5 centimeters. Electropolymerization is conducted at a current of 0.3 amperes for a period of 10 minutes yielding a black electronically conducting film characterized by a somewhat rough surface on the solution side of the film.

reactant | pentaerythritol | OCC(CO)(CO)CO | C5H12O4
reactant | sulfamic acid | S(N)(O)(=O)=O | H3NO3S
reactant | pyrrole | 5 grams | N1C=CC=C1 | C4H5N
reactant | water | O | H2O
solvent | N,N,-dimethylformamide | CN(C)C=O | C3H7NO
catalyst | nickel | [Ni] | Ni
product | tetrasulfate ammonium salt | [NH4+].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+] | InChI=1S/8H3N.4H2O4S/c;;;;;;;;4*1-5(2,3)4/h8*1H3;4*(H2,1,2,3,4)
